US04218458
A mixture of 7.5 parts of 5-(4-methoxyphenyl)-1-(1-methylethyl)-2-(methylthio)-1H-imidazole, 10 parts of Raney-nickel catalyst and 80 parts of ethanol is stirred and refluxed for 2 h. The catalyst is filtered off and another 10 parts of Raney-nickel catalyst is added. The whole is stirred for 2 hours at reflux temperature. The Raney-nickel catalyst is filtered off and the filtrate is evaporated, yielding 4 parts of 5-(4-methoxyphenyl)-1-(1-methylethyl)-1H-imidazole as a solid residue.

reactant | 5-(4-methoxyphenyl)-1-(1-methylethyl)-2-(methylthio)-1H-imidazole | COC1=CC=C(C=C1)C1=CN=C(N1C(C)C)SC | C14H18N2OS
catalyst | Raney-nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-methoxyphenyl)-1-(1-methylethyl)-1H-imidazole | COC1=CC=C(C=C1)C1=CN=CN1C(C)C | C13H16N2O
